US07935709B2
Step D: 1-Benzyl-6-chloro-3,4-dihydroquinazolin-2(1H)-one
To a stirring mixture of 3-(4-methoxybenzyl)-1-benzyl-6-chloro-3,4-dihydroquinazolin-2(1H-one (0.2 g, 0.68 mmol) in DCM (5.0 mL) was added TFA (4.0 mL). The mixture was stirred at RT for 5 h. The reaction was monitored by MS, and upon completion, the reaction was concentrated. The crude residue was purified using flash column chromatography (100% DCM to 2% MeOH in DCM) to obtain the desired product 1-benzyl-6-chloro-3,4-dihydroquinazolin-2(1H)-one as a white solid. MS m/e 273 (M+H)+.

reactant | 3-(4-methoxybenzyl)-1-benzyl-6-chloro-3,4-dihydroquinazolin | 0.68 mmol, 0.2 g | COC1=CC=C(CN2CN(C3=CC=C(C=C3C2)Cl)CC2=CC=CC=C2)C=C1 | C23H23ClN2O
reactant | TFA | 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-6-chloro-3,4-dihydroquinazolin-2(1H)-one | C(C1=CC=CC=C1)N1C(NCC2=CC(=CC=C12)Cl)=O | C15H13ClN2O
